US06838463B2
In 10 ml of N,N-dimethylformamide were dissolved 304 mg of 4-chloro-2-methyl-6-phenylpyrimidine and 92 mg of 2-propyn-1-ol, to which 66 mg of sodium hydride (60% in oil) was added, followed by stirring at room temperature for 12 hours. The reaction mixture was then poured into water and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The resulting residue was subjected to silica gel column chromatography to give 256 mg of 2-methyl-4-phenyl-6-(2-propynyloxy)pyrimidine (the present compound (77)).

reactant | 4-chloro-2-methyl-6-phenylpyrimidine | 304 mg | ClC1=NC(=NC(=C1)C1=CC=CC=C1)C | C11H9ClN2
reactant | 2-propyn-1-ol | 92 mg | C(C#C)O | C3H4O
reactant | sodium hydride | 66 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-methyl-4-phenyl-6-(2-propynyloxy)pyrimidine | 256 mg | CC1=NC(=CC(=N1)C1=CC=CC=C1)OCC#C | C14H12N2O
